US07947707B2
XO-CH145 was prepared by coupling of indole-3-carboaldehyde and 4-fluorobenzonitrile in a similar manner to the third step of the above 1. XO-CH147 was prepared by converting XO-CH145 into a tetrazole derivative using sodium azide, followed by cyanation using hydroxylamine to give XO-CH150 (the following scheme).

reactant | indole-3-carboaldehyde | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | tetrazole | N1N=NN=C1 | CH2N4
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | hydroxylamine | NO | H3NO
product | CH150 | CCC1=C(N=C2C=CC=C(N2C1=O)C)C | C12H14N2O
